US05334716
To a solution of ethyl 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-1-yl]butyrate (117 mg) in ethanol (2 ml) and 1,4-dioxane (2 ml) was added 1N aqueous solution of sodium hydroxide (1 ml). The mixture was stirred at room temperature for 3 hours, and then poured into a mixture of ethyl acetate and 0.5N hydrochloric acid. The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated to give 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-1-yl]butyric acid (98 mg) as powder.

reactant | ethyl 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-1-yl]butyrate | 117 mg | C(C(C)C)C1=CC=C(C=C1)C(CCCCC)NC=1C=C(C(=O)C2=CC(=C3C=CC=CN23)CCCC(=O)OCC)C=CC1 | C37H46N2O3
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 0.5N | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-1-yl]butyric acid | 98 mg | C(C(C)C)C1=CC=C(C=C1)C(CCCCC)NC=1C=C(C(=O)C2=CC(=C3C=CC=CN23)CCCC(=O)O)C=CC1 | C35H42N2O3
